US08754114B2
N-[(3R)-Tetrahydrofuran-3-yl]-2-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}phenyl)propanamide
This compound was prepared by using procedure analogous to those described for the synthesis of Example 98, Step 9 starting from 2-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}phenyl)propanoic acid and (3R)-tetrahydrofuran-3-amine 4-methylbenzenesulfonate (Fluka, Cat. No. 09440). LCMS (M+H)+: m/z=553.2.

reactant | 2-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}phenyl)propanoic acid | FC(CNC(=O)NC=1C=C(C=CC1)C1=CN=C2N1N=CC(=C2)C2=CC=C(C=C2)C(C(=O)O)C)(F)F | C24H20F3N5O3
reactant | (3R)-tetrahydrofuran-3-amine 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)O.O1C[C@@H](CC1)N
product | N-[(3R)-Tetrahydrofuran-3-yl]-2-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}phenyl)propanamide | O1C[C@@H](CC1)NC(C(C)C1=CC=C(C=C1)C1=CC=2N(N=C1)C(=CN2)C2=CC(=CC=C2)NC(=O)NCC(F)(F)F)=O | C28H27F3N6O3
